US04599357
To the stirred mixture of 5.0 g of indoline-2-carboxylic acid methyl ester [J. Am. Chem. Soc. 92, 2476 (1970)], 7.8 g of powdered potassium carbonate and 50 ml of methylene chloride, 5.1 g of 3-acetylthio-2-methylpropanoyl chloride (Belgium Pat. No. 868,532) in 20 ml of methylene chloride are added during 3 minutes at room temperature. After 2 hours the mixture is diluted with 100 ml of methylene chloride and washed with 100 ml of water, 100 ml of 1N hydrochloric acid and 100 ml of saturated aqueous sodium bicarbonate. The organic layer is dried and evaporated, to give the 1-(3-acetylthio-2-methylpropanoyl)-indoline-2-carboxylic acid methyl ester as an oil, showing in the IR-spectrum bands at 1710, 1690 and 1675 cm-1.

reactant | indoline-2-carboxylic acid methyl ester | 5.0 g | COC(=O)C1NC2=CC=CC=C2C1 | C10H11NO2
reactant | potassium carbonate | 7.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-acetylthio-2-methylpropanoyl chloride | 5.1 g | C(C)(=O)SCC(C(=O)Cl)C | C6H9ClO2S
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1-(3-acetylthio-2-methylpropanoyl)-indoline-2-carboxylic acid methyl ester | COC(=O)C1N(C2=CC=CC=C2C1)C(C(CSC(C)=O)C)=O | C16H19NO4S
